US06924294B2
A. Ethyl (3S, 4aR, 6S, 8aR) 6-(2-cyano-phenylamino)-2-methoxycarbonyl-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate
To a mixture of of ethyl 6-oxo-2-(methoxycarbonyl)-decahydroisoquinoline-3-carboxylate (537 mg, 1.9 mmol), 2-amino-6-chloro-benzonitrile (118 mg, 1.0 mmol), and glacial acetic acid (0.36 mL, 6.0 mmol) in 1,2-dichloroethane (5 mL), sodium triacethoxyborohydride solid (590 mg, 2.8 mmol) was added and the reaction mixture stirred under nitrogen at room temperature for 24 hours. Sodium bicarbonate was added until pH 8, followed by addition of ethyl acetate. The phases were separated and the aqueous phase washed twice with ethyl acetate. The combined organic phases were dried with anhydrous sodium sulfate and concentrated in vacuo. Flash chromatography (silica gel, hexane-ethyl acetate 3:1) afforded 123 mg (32% yield) of the title compound.

reactant | ethyl 6-oxo-2-(methoxycarbonyl)-decahydroisoquinoline-3-carboxylate | 1.9 mmol, 537 mg | O=C1CC2CC(N(CC2CC1)C(=O)OC)C(=O)OCC | C14H21NO5
reactant | 2-amino-6-chloro-benzonitrile | 1.0 mmol, 118 mg | NC1=C(C#N)C(=CC=C1)Cl | C7H5ClN2
reactant | acetic acid | 6.0 mmol, 0.36 mL | C(C)(=O)O | C2H4O2
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | sodium | [Na] | Na
solvent | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | Ethyl (3S, 4aR, 6S, 8aR) 6-(2-cyano-phenylamino)-2-methoxycarbonyl-1,2,3,4,4a,5,6,7,8,8a-decahydroisoquinoline-3-carboxylate | 123 mg, 32% yield | C(#N)C1=C(C=CC=C1)N[C@@H]1C[C@@H]2C[C@H](N(C[C@@H]2CC1)C(=O)OC)C(=O)OCC | C21H27N3O4
